US05002967
3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl) thio]propanoic acid
Methyl 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoate (1.0 g, 3 mmole) was added to a clear solution of lithium hydroxide hydrate (0.64 g, 15 mmole) in methanol (15 ml). Water was added until the solution became cloudy and the mixture was then stirred overnight. The mixture was concentrated to about 10 ml and acidified with cold (5° ) 10% hydrochloric acid. The resultant precipitate was collected by filtration, washed with water, and air dried Recrystallization from cyclohexane gave the title compound, m.p. 108°-110°.

reactant | Methyl 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoate | 3 mmole, 1.0 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)OC | C18H28O3S
reactant | lithium hydroxide hydrate | 15 mmole, 0.64 g | O.[OH-].[Li+]
reactant | Water | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl) thio]propanoic acid | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)O | C17H26O3S
